US06107324
N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl]-2-[4-(trifluoromethoxy)phenyl]acetamide
A solution of 3-(3-aminophenyl)-4-bromo-1-methylpyrazole (35 mg, 0.14 mmol) and triethylamine (23 μL, 0.17 mmol) in DMF (0.5 mL) was added in one portion to a stirred solution of 4-trifluoromethoxyphenylacetic acid (31 mg, 0.14 mmol), HBTU (53 mg, 0.14 mmol) and HOBT (19 mg, 0.14 mmol) in DMF (1 mL). The mixture was heated at 70° C. for 24 h and then quenched with aqueous sodium bicarbonate solution. Ethyl acetate was added and the organic phase separated, washed with water (×3), brine, dried (MgSO4) and evaporated. Chromatography on flash silica (50% EtOAc/hexane) gave the title compound as a colourless solid (43 mg, 68%). m.p. 141.2-142.5° C. (EtOAc/hexane).

reactant | 3-(3-aminophenyl)-4-bromo-1-methylpyrazole | 0.14 mmol, 35 mg | NC=1C=C(C=CC1)C1=NN(C=C1Br)C | C10H10BrN3
reactant | triethylamine | 0.17 mmol, 23 μL | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethoxyphenylacetic acid | 0.14 mmol, 31 mg | FC(OC1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O3
reactant | HBTU | 0.14 mmol, 53 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.14 mmol, 19 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl]-2-[4-(trifluoromethoxy)phenyl]acetamide | 43 mg, 68% | BrC=1C(=NN(C1)C)C=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OC(F)(F)F)=O | C19H15BrF3N3O2
